US07635715B2
Step B: Preparation of N-((6-Phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((6-phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (190 mg, 451 μmol) was dissolved in TFA (2 mL) at ambient temperature. The resulting mixture was then stirred for 30 minutes. The reaction mixture was concentrated, precipitated with ether, filtered, washed with ether, and dried in a vacuum oven to give the title compound (57 mg) as a white solid. MS (m/z)=366 (M+H)+. Calculated for C21H19NO5 365.13.

reactant | 1,1-Dimethylethyl N-((6-phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 451 μmol, 190 mg | C1(=CC=CC=C1)C=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C25H27NO5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-Phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 57 mg | C1(=CC=CC=C1)C=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)O)O | C21H19NO5
